US06194410B1
In an analogous manner to that described in Example 5, from 7-chloro-3-(4-chloro-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine and dimethyl-amine in EtOH there was obtained [3-(4-chloro-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-yl]-dimethyl-amine as colorless crystals, m.p. 221-223°.

reactant | 7-chloro-3-(4-chloro-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC=C(C=C2)Cl)SC)C | C14H11Cl2N3O2S2
reactant | dimethyl-amine | CNC | C2H7N
solvent | EtOH | CCO | C2H6O
product | [3-(4-chloro-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-yl]-dimethyl-amine | ClC1=CC=C(C=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N(C)C)C)SC | C16H17ClN4O2S2
